US04146715
Following the procedure of Example 1, 2,6-dichloropurine was condensed with 1-benzoyloxy-2-chloromethoxyethane to give a 41% yield of 2,6-dichloro-9-(2-benzoyloxyethoxymethyl)purine, m.p. 121°-125° C. This was treated according to the procedure of Example 2 to give simultaneous ammonolysis of the 6-chloro and benzoyloxy groups yielding 2-chloro-9-(hydroxyethoxymethyl)adenine, in 94% yield, m.p. 188°-190° C. after recrystallization from isopropanol.

reactant | 2,6-dichloropurine | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | 1-benzoyloxy-2-chloromethoxyethane | C(C1=CC=CC=C1)(=O)OCCOCCl | C10H11ClO3
product | 2,6-dichloro-9-(2-benzoyloxyethoxymethyl)purine | 41% yield | ClC1=NC(=C2N=CN(C2=N1)COCCOC(C1=CC=CC=C1)=O)Cl | C15H12Cl2N4O3
